*
*|DSPF 1.5
*
*|DATE "Wed Aug  7 04:12:09 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "23.1.0-p075 Linux 64 bit - (Tue Sep 26 09:11:43 PDT 2023)"
*|DESIGN "emir_test_2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 27
*|OPERATING_TEMPERATURE 27
** QRC_TECH_DIR /home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/QRC_pvs/v9_0_1/XH018_1143/QRC-Typ 
** HIERARCHICAL_SPLIT_PINS_DELIMITER '%'
** caps2d version: 10
*
.SUBCKT  emir_test_2 gnda vdda
*
*Net Section
*
*|GROUND_NET 0
*
*LAYER_MAP
*0 none
*1 POLY1
*2 MET1
*3 active
*4 CONT
*5 MET2
*6 MET3
*7 MET4
*8 METTP

*|NET gnda 0
*|P (gnda X 0 318.2400 21.0950) // $llx=318.2400 $lly=21.0950 $urx=318.2400 $ury=21.0950 $lvl=2
*|I (XRR11#POS XRR11 POS X 0 315.8155 82.8250) // $llx=315.8155 $lly=82.8250 $urx=315.8155 $ury=82.8250 $lvl=1
*|I (XRR0#POS XRR0 POS X 0 315.8155 75.4300) // $llx=315.8155 $lly=75.4300 $urx=315.8155 $ury=75.4300 $lvl=1
*|I (XRR1#POS XRR1 POS X 0 315.8155 67.7650) // $llx=315.8155 $lly=67.7650 $urx=315.8155 $ury=67.7650 $lvl=1
*|I (XRR4#POS XRR4 POS X 0 315.8155 59.6900) // $llx=315.8155 $lly=59.6900 $urx=315.8155 $ury=59.6900 $lvl=1
*|I (XRR5#POS XRR5 POS X 0 314.1655 32.1150) // $llx=314.1655 $lly=32.1150 $urx=314.1655 $ury=32.1150 $lvl=1
*|I (XRR6#POS XRR6 POS X 0 314.1655 20.8600) // $llx=314.1655 $lly=20.8600 $urx=314.1655 $ury=20.8600 $lvl=1
*|I (XRR7#POS XRR7 POS X 0 314.1655 11.3650) // $llx=314.1655 $lly=11.3650 $urx=314.1655 $ury=11.3650 $lvl=1
*|S (gnda#1 314.7150 32.1150) // $llx=314.7150 $lly=32.1150 $urx=314.7150 $ury=32.1150 $lvl=1
*|S (gnda#3 314.7150 20.8600) // $llx=314.7150 $lly=20.8600 $urx=314.7150 $ury=20.8600 $lvl=1
*|S (gnda#5 314.7150 11.3650) // $llx=314.7150 $lly=11.3650 $urx=314.7150 $ury=11.3650 $lvl=1
*|S (gnda#7 316.3650 82.8250) // $llx=316.3650 $lly=82.8250 $urx=316.3650 $ury=82.8250 $lvl=1
*|S (gnda#9 316.3650 75.4300) // $llx=316.3650 $lly=75.4300 $urx=316.3650 $ury=75.4300 $lvl=1
*|S (gnda#11 316.3650 67.7650) // $llx=316.3650 $lly=67.7650 $urx=316.3650 $ury=67.7650 $lvl=1
*|S (gnda#13 316.3650 59.6900) // $llx=316.3650 $lly=59.6900 $urx=316.3650 $ury=59.6900 $lvl=1
Rg1 gnda#1 XRR5#POS 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg2 gnda#3 XRR6#POS 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg3 gnda#5 XRR7#POS 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg4 gnda#7 XRR11#POS 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg5 gnda#9 XRR0#POS 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg6 gnda#11 XRR1#POS 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg7 gnda#13 XRR4#POS 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rcb8 gnda#7 gnda 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb9 gnda#9 gnda 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb10 gnda#11 gnda 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb11 gnda#13 gnda 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb12 gnda#1 gnda 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb13 gnda#3 gnda 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb14 gnda#5 gnda 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
*
*|NET vdda 0
*|P (vdda X 0 2.6600 20.3600) // $llx=2.6600 $lly=20.3600 $urx=2.6600 $ury=20.3600 $lvl=2
*|I (XRR11#NEG XRR11 NEG X 0 290.8145 82.8250) // $llx=290.8145 $lly=82.8250 $urx=290.8145 $ury=82.8250 $lvl=1
*|I (XRR0#NEG XRR0 NEG X 0 290.8145 75.4300) // $llx=290.8145 $lly=75.4300 $urx=290.8145 $ury=75.4300 $lvl=1
*|I (XRR1#NEG XRR1 NEG X 0 290.8145 67.7650) // $llx=290.8145 $lly=67.7650 $urx=290.8145 $ury=67.7650 $lvl=1
*|I (XRR4#NEG XRR4 NEG X 0 290.8145 59.6900) // $llx=290.8145 $lly=59.6900 $urx=290.8145 $ury=59.6900 $lvl=1
*|I (XRR5#NEG XRR5 NEG X 0 289.1645 32.1150) // $llx=289.1645 $lly=32.1150 $urx=289.1645 $ury=32.1150 $lvl=1
*|I (XRR6#NEG XRR6 NEG X 0 289.1645 20.8600) // $llx=289.1645 $lly=20.8600 $urx=289.1645 $ury=20.8600 $lvl=1
*|I (XRR7#NEG XRR7 NEG X 0 289.1645 11.3650) // $llx=289.1645 $lly=11.3650 $urx=289.1645 $ury=11.3650 $lvl=1
*|S (vdda#2 288.6150 32.1150) // $llx=288.6150 $lly=32.1150 $urx=288.6150 $ury=32.1150 $lvl=1
*|S (vdda#4 288.6150 20.8600) // $llx=288.6150 $lly=20.8600 $urx=288.6150 $ury=20.8600 $lvl=1
*|S (vdda#6 288.6150 11.3650) // $llx=288.6150 $lly=11.3650 $urx=288.6150 $ury=11.3650 $lvl=1
*|S (vdda#8 290.2650 82.8250) // $llx=290.2650 $lly=82.8250 $urx=290.2650 $ury=82.8250 $lvl=1
*|S (vdda#10 290.2650 75.4300) // $llx=290.2650 $lly=75.4300 $urx=290.2650 $ury=75.4300 $lvl=1
*|S (vdda#12 290.2650 67.7650) // $llx=290.2650 $lly=67.7650 $urx=290.2650 $ury=67.7650 $lvl=1
*|S (vdda#14 290.2650 59.6900) // $llx=290.2650 $lly=59.6900 $urx=290.2650 $ury=59.6900 $lvl=1
*|S (vdda#15 288.6150 11.3650) // $llx=288.6150 $lly=11.3650 $urx=288.6150 $ury=11.3650 $lvl=2
*|S (vdda#17 2.7225 10.7850) // $llx=2.7225 $lly=10.7850 $urx=2.7225 $ury=10.7850 $lvl=2
*|S (vdda#20 2.7225 31.3250) // $llx=2.7225 $lly=31.3250 $urx=2.7225 $ury=31.3250 $lvl=2
*|S (vdda#21 2.8250 59.1650) // $llx=2.8250 $lly=59.1650 $urx=2.8250 $ury=59.1650 $lvl=2
*|S (vdda#26 288.6150 20.8600) // $llx=288.6150 $lly=20.8600 $urx=288.6150 $ury=20.8600 $lvl=2
*|S (vdda#27 288.6150 18.4000) // $llx=288.6150 $lly=18.4000 $urx=288.6150 $ury=18.4000 $lvl=2
*|S (vdda#28 288.6150 32.1150) // $llx=288.6150 $lly=32.1150 $urx=288.6150 $ury=32.1150 $lvl=2
*|S (vdda#29 288.6150 34.5745) // $llx=288.6150 $lly=34.5745 $urx=288.6150 $ury=34.5745 $lvl=2
*|S (vdda#30 288.6150 23.3195) // $llx=288.6150 $lly=23.3195 $urx=288.6150 $ury=23.3195 $lvl=2
Rg15 XRR5#NEG vdda#2 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg16 XRR6#NEG vdda#4 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg17 XRR7#NEG vdda#6 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg18 XRR11#NEG vdda#8 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg19 XRR0#NEG vdda#10 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg20 XRR1#NEG vdda#12 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg21 XRR4#NEG vdda#14 0.820080 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rf22 vdda#15 vdda#17 68.676819 $MET1  $L=285.892487 $W=0.32 $lvl=2
Rf23 vdda#17 vdda 0.591641 $MET1  $L=9.57475 $W=1.245 $lvl=2
Rf24 vdda vdda#20 0.675605 $MET1  $L=10.96525 $W=1.245 $lvl=2
Rf25 vdda#20 vdda#21 1.719860 $MET1  $L=27.83975 $W=1.245 $lvl=2
Rf26 vdda vdda#26 22.455324 $MET1  $L=285.954987 $W=0.98 $lvl=2
Rf27 vdda#26 vdda#27 0.579552 $MET1  $L=2.46 $W=0.32 $lvl=2
Rf28 vdda#20 vdda#28 5.531967 $MET1  $L=285.892242 $W=3.98 $lvl=2
Rf29 vdda#28 vdda#29 0.574690 $MET1  $L=2.46 $W=0.32 $lvl=2
Rf30 vdda#26 vdda#30 0.590048 $MET1  $L=2.46 $W=0.32 $lvl=2
Rcb31 vdda#6 vdda#15 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb32 vdda#4 vdda#26 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb33 vdda#2 vdda#28 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb34 vdda#14 vdda#21 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb35 vdda#12 vdda#21 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb36 vdda#10 vdda#21 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
Rcb37 vdda#8 vdda#21 0.750000 $CONT  $A=0.484 $N=10 $lvl=4
*
*Instance Section
*
XRR11	XRR11#POS	XRR11#NEG	rpp1k1 	L=2.5e-05	W=5e-06
XRR0	XRR0#POS	XRR0#NEG	rpp1k1 	L=2.5e-05	W=5e-06
XRR1	XRR1#POS	XRR1#NEG	rpp1k1 	L=2.5e-05	W=5e-06
XRR4	XRR4#POS	XRR4#NEG	rpp1k1 	L=2.5e-05	W=5e-06
XRR5	XRR5#POS	XRR5#NEG	rpp1k1 	L=2.5e-05	W=5e-06
XRR6	XRR6#POS	XRR6#NEG	rpp1k1 	L=2.5e-05	W=5e-06
XRR7	XRR7#POS	XRR7#NEG	rpp1k1 	L=2.5e-05	W=5e-06
.ENDS
